US03961062
a. 3-Ethylisoquinoline-1-one
88.3 g (0.87 mole) of triethylamine in 100 ml of absolute acetone were added dropwise to 128 g (0.73 mole) of 2-ethylcinnamic acid in 1200 ml of absolute acetone. The whole was stirred for 10 minutes and 94.6 g (0.87 mole) of chloroformic acid ethyl ester in 100 ml of absolute acetone were added dropwise with stirring. After 1 hour, a concentrated solution of 65 g (1 mole) of sodium azide in a small amount of water was added dropwise and stirring was continued for 30 minutes. The major part of the solvent was removed at room temperature under reduced pressure and the residue was poured onto ice. Extraction was effected with methylene chloride and the organic phase was washed with water and dried carefully over MgSC4. This solution of the acid azide was added dropwise into 350 ml of boiling diphenyl ether, during which time the methylene chloride was simultaneously distilled off. The whole was further heated for 1 hour under reflux and then the solvent was removed under reduced pressure. The residue was recrystallized from ethanol. M.p. 139° to140° C.

reactant | triethylamine | 0.87 mole, 88.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethylcinnamic acid | 0.73 mole, 128 g | C(C)C1=C(C=CC(=O)O)C=CC=C1 | C11H12O2
reactant | chloroformic acid ethyl ester | 0.87 mole, 94.6 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium azide | 1 mole, 65 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 1200 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-Ethylisoquinoline-1-one | C(C)C=1NC(C2=CC=CC=C2C1)=O | C11H11NO
